US08748418B2
To a solution of crude (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-5-(5-(diphenylmethyleneamino)-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (1.2 mmol) in dichloromethane (20 ml) was added at 22° C. trifluoroacetic acid (2.6 ml) and stirring was continued for 1 h. The mixture was diluted with 1,4-dioxane (40 ml) and aqueous hydrochloric acid (1 M, 33 ml) and vigorous stirring of the emulsion at 22° C. was continued for 16 h. The mixture was evaporated and the residue partitioned between saturated aqueous NaCl and ethyl acetate, the aqueous layer was separated, the pH was adjusted to 14 using saturated aqueous Na2CO3 solution and extracted with ethyl acetate. The organic layer was dried, evaporated and the residue purified by chromatography on silica-NH2 using dichloromethane to give (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine as a colorless oil. MS (ISP): m/z=274.3 [M+H]+.

reactant | (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-5-(5-(diphenylmethyleneamino)-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | 1.2 mmol | COC1=CC=C(C=C1)C(NC=1COCC([C@@](N1)(C)C1=C(C=CC(=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)F)(F)F)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C46H40F3N3O3
reactant | trifluoroacetic acid | 2.6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 1 M, 33 ml | Cl | ClH
product | (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | NC=1C=CC(=C(C1)[C@]1(N=C(COCC1(F)F)N)C)F | C12H14F3N3O
